US05306821
α,α-Dibutylbenzylamine
Cerium chloride heptahydrate (15.0 g 40.2 mmol) was dried with magnetic stirring at 140°-150° under 0.1 mm vacuum for two hours. Nitrogen was admitted and the flask containing the solid was cooled with an ice bath. Anhydrous tetrahydrofuran (80 mL) was added and the suspension was stirred at room temperature for 2 hours. n-Butyllithium (24 mL of a 1.6M solution in hexanes, 40 mmol) was added below -55° by syringe, and the mixture was stirred in a dry ice acetone bath for 30 minutes. Benzonitrile (1.34 g, 13 mmol) in 2 mL of anhydrous tetrahydrofuran was added, and the cooling bath was removed. Aqueous ammonium hydroxide (25 mL) was added after 2 hours, keeping the temperature below 0°, and the mixture was filtered with the aid of celite™. The solids were washed three times with methylene chloride, and the aqueous layer of the filtrate was extracted twice with methylene chloride. The combined organic phases were dried and concentrated and the residue was short-path distilled to give 2.53 g (90%) of the title compound distilling at a bath temperature of 80°-130° (0.003 mm). 1H-NMR (in CDCl3) ∂0.8 (t, J=6 Hz, 6H), 1.0 (m, 2H), 1.2 (m, 6H), 1.4 (br, 2H), 1.6 (m, 2H), 1.8 (m, 2H), 7.2-7.4 (m, 5H).

reactant | Cerium chloride heptahydrate | 40.2 mmol, 15.0 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | n-Butyllithium | C(CCC)[Li]
reactant | Benzonitrile | 13 mmol, 1.34 g | C(C1=CC=CC=C1)#N | C7H5N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | α,α-Dibutylbenzylamine | 2.53 g, 90% | C(CCC)C(C1=CC=CC=C1)(CCCC)N | C15H25N
